US07122543B2
Methyl 3-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoate
3-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoic acid (652 mg, 1.4424 mmol) was dissolved in methylene chloride (20 ml), then anhydrous methanol (231 mg, 7.2187 mmol), 4-dimethylaminopyridine (264 mg, 2.1639 mmol) and WSC-HCl (830 mg, 4.3296 mmol) were added thereto and the mixture was stirred at room temperature for 16 hours. The reaction solution was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to give the title compound (490 mg, 1.0515 mmol, 73%).

reactant | 3-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoic acid | 1.4424 mmol, 652 mg | COC=1C(=C(CC=2C(=C(C(=O)O)C=CC2)OCC2=CC=CC=C2)C(=C(C1OC)OC)OC)C | C26H28O7
reactant | methanol | 7.2187 mmol, 231 mg | CO | CH4O
reactant | WSC HCl | 4.3296 mmol, 830 mg | CCN=C=NCCCN(C)C.Cl
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 2.1639 mmol, 264 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | Methyl 3-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoate | 1.0515 mmol, 490 mg, 73% | COC=1C(=C(CC=2C(=C(C(=O)OC)C=CC2)OCC2=CC=CC=C2)C(=C(C1OC)OC)OC)C | C27H30O7
